US07420001B2
To 105 mg of 5-chloro-4-methoxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester was added 1 mL of THF and 3 mL of LiOH solution (3.6 g LiOH/50 mL MeOH/50 mL H2O). The mixture was stirred at room temperature overnight. The solvents were removed under vacuum and the residue was dissolved in 5 mL of water. The solution was acidified and the resulting suspension was filtered. The solid product was triturated with dichloromethane and dried under vacuum to give 82 mg (87% yield) of 5-chloro-4-methoxy-3-methyl-benzofuran-2-carboxylic acid.

reactant | 5-chloro-4-methoxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 105 mg | C(C)OC(=O)C=1OC2=C(C1C)C(=C(C=C2)Cl)OC | C13H13ClO4
reactant | LiOH | 3 mL, 3.6 g | [Li+].[OH-]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 5-chloro-4-methoxy-3-methyl-benzofuran-2-carboxylic acid | 82 mg, 87% yield | ClC=1C=CC2=C(C(=C(O2)C(=O)O)C)C1OC | C11H9ClO4
